US06673799B1
(3S,6R)-1-Benzyl-3,6-dimethylpiperazine-2,5-dione
A 0.98 g portion of N-tert-butoxycarbonyl-L-alanine was added to 50 ml of 0° C.-cooled dichloromethane solution containing 1.07 g of DCC, and the mixture was stirred for 5 minutes. This solution was mixed with 10 ml of dichloromethane solution containing 1.0 g of N-benzyl-D-alanine methyl ester and stirred at room temperature for 2 days. White precipitate was separated by filtration and washed with diethyl ether and then the filtrate was concentrated. The residue was dried under reduced pressure, dissolved with 30 ml of dichloromethane, cooled to 0° C., mixed with 5 ml of trifluoroacetic acid and then stirred at room temperature for 3 hours. The reaction solution was neutralized with saturated aqueous sodium bicarbonate, extracted with chloroform, dried over anhydrous magnesium sulfate, filtered and then concentrated. The residue was subjected to a silica gel column chromatography and purified with n-hexane-ethyl acetate (1:5, v/v) to obtain 1.0 g of the title compound as a colorless oily substance.

reactant | N-tert-butoxycarbonyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | DCC | 1.07 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-benzyl-D-alanine methyl ester | 1.0 g | COC([C@H](NCC1=CC=CC=C1)C)=O | C11H15NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3S,6R)-1-Benzyl-3,6-dimethylpiperazine-2,5-dione | 1.0 g | C(C1=CC=CC=C1)N1C([C@@H](NC([C@H]1C)=O)C)=O | C13H16N2O2
